US09359371B2
In DMF (60 mL) were dissolved 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylthio) pyrimidine-5-carboxylic acid (1.0 g, 2.95 mmol), pyrimidine 2-ylmethylamine (570 mg, 5.22 mmol) and HATU (2-(7-azabenzotriazole)-N,N,N′,N′-tetramethyluronium hexafluorophosphate, 2.64 g, 6.96 mmol), then DIEA (152 mg, 1.2 mmol) was added dropwisely. The reaction mixture was stirred at 60° C. overnight, extracted with DCM after water was added and washed with brine. The organic phase was dried over sodium sulfate. The solvent was removed by rotary evaporation, then the solid obtained was purified by silica gel column chromatography (DCM/methanol=50/1) to give 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylthio)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide (350 mg, 13% yield).

reactant | 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylthio) pyrimidine-5-carboxylic acid | 2.95 mmol, 1.0 g | ClC=1C=C(CNC2=NC(=NC=C2C(=O)O)SC)C=CC1OC | C14H14ClN3O3S
reactant | pyrimidine 2-ylmethylamine | 5.22 mmol, 570 mg | N1=C(N=CC=C1)CN | C5H7N3
reactant | HATU | 6.96 mmol, 2.64 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.2 mmol, 152 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylthio)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide | 350 mg, 13% yield | ClC=1C=C(CNC2=NC(=NC=C2C(=O)NCC2=NC=CC=N2)SC)C=CC1OC | C19H19ClN6O2S
